2125-09-01 08:02:00 Physician Resident Progress Note
Chief Complaint: fatigue
   24 Hour Events:
 URINE CULTURE - At [**2125-8-31**] 08:57 PM
 EKG - At [**2125-8-31**] 10:14 PM
 EKG - At [**2125-9-1**] 04:46 AM
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-8-31**] 11:15 PM
   Metoprolol - [**2125-9-1**] 05:00 AM
   Diltiazem - [**2125-9-1**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-1**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 135 (101 - 171) bpm
   BP: 110/63(75) {96/44(58) - 135/81(86)} mmHg
   RR: 26 (20 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    160 mL
                                                                    830 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     40 mL
                                                                    830 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    500 mL
   Urine:
                                                                    620 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   11.6 g/dL
   140 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.4 mEq/L
   21 mg/dL
   96 mEq/L
   136 mEq/L
   33.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2125-9-1**]  04:34 AM
   WBC
   4.4
   Hct
   33.9
   Plt
   120
   Cr
   0.9
   TropT
   0.02
   Glucose
   140
   Other labs: CK / CKMB / Troponin-T://0.02, ALT / AST:17/14, Alk Phos /
   T Bili:66/0.4, Differential-Neuts:82.0 %, Lymph:13.9 %, Mono:3.4 %,
   Eos:0.5 %, Albumin:3.2 g/dL, LDH:197 IU/L, Ca++:8.3 mg/dL, Mg++:1.3
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-8-31**] 05:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-09-01 08:07:00 Physician Resident Progress Note
Chief Complaint: fatigue
   24 Hour Events:
   Had A. fib with RVR, responding to lopressor and then Dilt. Got IVF.
   .
 URINE CULTURE - At [**2125-8-31**] 08:57 PM
 EKG - At [**2125-8-31**] 10:14 PM
 EKG - At [**2125-9-1**] 04:46 AM
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-8-31**] 11:15 PM
   Metoprolol - [**2125-9-1**] 05:00 AM
   Diltiazem - [**2125-9-1**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-1**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 135 (101 - 171) bpm
   BP: 110/63(75) {96/44(58) - 135/81(86)} mmHg
   RR: 26 (20 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    160 mL
                                                                    831 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     40 mL
                                                                    831 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    500 mL
   Urine:
                                                                    620 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   Gen: chronically ill appearing, obese female
   HEENT: facial hair, EOMI, o/p clear,
   CV: tachycardic, no m/r/g
   Pulm: crackles diffusely
   Abd: soft, nt, nd, bowel sounds  present
   Ext: peripheral edema
   Labs / Radiology
   120 K/uL
   11.6 g/dL
   140 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.4 mEq/L
   21 mg/dL
   96 mEq/L
   136 mEq/L
   33.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2125-9-1**]  04:34 AM
   WBC
   4.4
   Hct
   33.9
   Plt
   120
   Cr
   0.9
   TropT
   0.02
   Glucose
   140
   Other labs: CK / CKMB / Troponin-T://0.02, ALT / AST:17/14, Alk Phos /
   T Bili:66/0.4, Differential-Neuts:82.0 %, Lymph:13.9 %, Mono:3.4 %,
   Eos:0.5 %, Albumin:3.2 g/dL, LDH:197 IU/L, Ca++:8.3 mg/dL, Mg++:1.3
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5141**] is a 73 yo female with PTLD s/p R-CHOP, s/p liver
   transplant in [**2117**] for cryptogenic cirrhosis, pulmonary fibrosis, type
   2 diabetes, and HTN admitted for constellation of non-specific symptoms
   such as fatigue, urinary incontinence, shortness of breath, and leg
   swelling.
   .
   1.  Fatigue.  Unclear if these symptoms truly represent a difference
   from baseline.  No evidence of infection at present so no
   antiobiotics.  [**Month (only) 60**] be secondary to worsening pulmonary fibrosis or to
   RV failure (from pulmonary hypertension).  Patient may benefit from
   trial of sildenafil.
   - Echo to evaluate RV function/pulmonary HTN
   - Is = Os
   - continue home prednisone
   - O2 Sat in high 90s for pulmonary vasodilation
   .
   2.  Tachycardia.  Patient had sinus tachycardia and then A. fib with
   RVR.  HR has increased in recent months at outpatient visits.  Concern
   for ongoing A. fib with RVR as outpatient likely secondary to worsening
   respiratory status.  Normal TSH.  NO evidence of dehydration.
   - increase lopressor dose as tolerated by BP
   .
   3.  IPF.  Patient requires 2-2.5L/NC at home.  On Prednisone 40 mg
   daily.
   - continue steroids
   - continue supplemental oxygen to maintain O2 sats > 95
   .
   4.  A.fib.  Patient went into A.fib with RVR.  On metoprolol at home.
   Precipitant for A. fib is likely severe pulmonary disease.  Will give
   IVF in case of dehydration. TSH normal.  CHADS of 3, so would benefit
   from anticoagulation, however, has difficulty walking and questionable
   med compliance.
   - uptitrate lopressor
   - continue aspirin
   - determine why patient is not on anticoagulation
   - f/u with family and/or PCP [**Last Name (NamePattern4) **]: whether anticoagulation would be
   feasible for patient
   .
   5.  DM. On NPH and RISS
   - follow fingersticks
   .
   6.  S/p liver transplant, on tacrolimus.
   - check tacrolimus level
   .
   7. Hypothyroidism.
   - check TSH given A. fib
   .
   Diabetic Diet.
   .
   HSQ.
   .
   DNI, but can recussitate
   .
   .
   .
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5142**]
   [**Pager number 5143**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-8-31**] 05:45 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:  PPI
   VAP:  not needed
   Comments:
   Communication:  Comments:
   Code status: DNI but can recussitate
   Disposition:

2125-09-01 10:20:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, tachycardia
   I saw and examined the patient, and was physically present with the [** **]
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 y/o F s/p OLT 3 yrs ago, PTLD, recently diagnosed IPF, who presents
   with LE edema, fever, tachycardia, ? of R heart failure.
   24 Hour Events:
 URINE CULTURE - At [**2125-8-31**] 08:57 PM
 EKG - At [**2125-8-31**] 10:14 PM
 EKG - At [**2125-9-1**] 04:46 AM
   Went into rapid AFib (rate to 160s-170s) overnight, bp stable &
   otherwise asymptomatic.  Bolus NS 250 ml x2 without improvement.
   Received lopressor which was ineffective, then received dilt and HR now
   down to 110s.
   History obtained from Patient
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other [**Year (4 digits) **] medications:
   Heparin Sodium (Prophylaxis) - [**2125-8-31**] 11:15 PM
   Metoprolol - [**2125-9-1**] 05:00 AM
   Diltiazem - [**2125-9-1**] 07:57 AM
   Other medications:
   colace, aspirin, bactrim MWF, prednisone 40 mg daily, omeprazole,
   levothyroxine, atrovent, insulin sliding scale, metoprolol 12.5 mg [**Hospital1 **],
   advair
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Edema, Tachycardia
   Flowsheet Data as of  [**2125-9-1**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.7
   HR: 135 (101 - 171) bpm
   BP: 110/63(75) {96/44(58) - 135/81(86)} mmHg
   RR: 26 (20 - 35) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    160 mL
                                                                  1,020 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
                                                                     40 mL
                                                                    900 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    500 mL
   Urine:
                                                                    620 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                    520 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, still not speaking in complete
   sentences.  Eating breakfast.
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   [**12-28**] way up bilaterally), low lung volumes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   120 K/uL
   140 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.4 mEq/L
   21 mg/dL
   96 mEq/L
   136 mEq/L
   33.9 %
   4.4 K/uL
        [image002.jpg]
                             [**2125-9-1**]  04:34 AM
   WBC
   4.4
   Hct
   33.9
   Plt
   120
   Cr
   0.9
   TropT
   0.02
   Glucose
   140
   Other labs: CK / CKMB / Troponin-T://0.02, ALT / AST:17/14, Alk Phos /
   T Bili:66/0.4, Differential-Neuts:82.0 %, Lymph:13.9 %, Mono:3.4 %,
   Eos:0.5 %, Albumin:3.2 g/dL, LDH:197 IU/L, Ca++:8.3 mg/dL, Mg++:1.3
   mg/dL, PO4:3.6 mg/dL
   Imaging: No new imaging.
   Assessment and Plan
   73 y/o F s/p OLT 3 yrs ago, PTLD, recently diagnosed IPF, who presents
   with LE edema, fever, tachycardia.  Given her underlying lung disease
   and history of RV dilation & hypokinesis on prior echo, this suggests
   RV failure.
   1. Tachycardia:  Has been in sinus tach as well as afib.  Likely being
   driven by worsening RV failure.  Infection is of concern given her
   fever but has been afebrile overnight and no obvious source of
   infection or localizing signs/symptoms. Will continue IV abx till
   cultures negative
   2. Hypotension:  Occurred in ED but resolved and has not been an issue
   overnight.
   3. Right Heart Failure:  Likely acute on chronic, due to underlying
   heart disease.
   - goal euvolemic to slightly negative
   - TTE today
   - may benefit from PSG given body habitus and witnessed snoring.
   4. Idiopathic Pulmonary Fibrosis-
   -Continue with outpatient medications: on prednisone & prophylactic
   bactrim.
   5. s/p OLT:  Check FK level.
   6. AFib:  Titrate up metoprolol to 25 mg tid.  CHADS2 score 3 so may
   benefit from anticoagulation but will d/w PCP.
   [**Name10 (NameIs) **] [**Name11 (NameIs) **]
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2125-8-31**] 05:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :[**Year (4 digits) **]
   Total time spent:  45 minutes

2125-09-03 10:07:00 Physician Attending Progress Note
Chief Complaint: tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 y/o F s/p OLT 3 yrs ago, PTLD, recently diagnosed IPF, who presents
   with LE edema, fever, tachycardia.  Overall is improved but unclear
   primary diagnosis.  Likely infection with superimposed AFib & diastolic
   dysfunction.
   24 Hour Events:
   - had bed on floor yesterday but hyperglycemic, no anion gap, so held
   in ICU overnight
   Allergies:
   Codeine
   Unknown;
   Oxycodone/Acetaminophen (Oral) (Oxycodone Hcl/Acetaminophen
   Unknown;
   Morphine Sulfate
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2125-9-2**] 08:00 PM
   Levofloxacin - [**2125-9-2**] 09:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-9-2**] 09:40 PM
   Dextrose 50% - [**2125-9-3**] 03:04 AM
   Other medications:
   colace, aspirin 325 mg daily, bactrim MWF, FK506 3 mg [**Hospital1 **], prednisone
   40 mg daily, omeprazole, synthroid, atrovent, advair, SQ heparin,
   lopressor 37.5 tid, insulin sliding scale, NPH 30 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-3**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 97 (77 - 124) bpm
   BP: 111/60(73) {97/41(56) - 135/80(95)} mmHg
   RR: 21 (14 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.9 kg (admission): 86.5 kg
             Total In:
                                                                  1,176 mL
                                                                    152 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    456 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    850 mL
   Urine:
                                                                  2,200 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   unchanged)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   150 K/uL
   42 mg/dL
   0.9 mg/dL
   34 mEq/L
   3.7 mEq/L
   30 mg/dL
   97 mEq/L
   138 mEq/L
   30.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2125-9-1**]  04:34 AM
                             [**2125-9-2**]  04:03 AM
                             [**2125-9-2**]  06:56 PM
                             [**2125-9-3**]  05:32 AM
   WBC
   4.4
   3.8
   4.6
   Hct
   33.9
   31.1
   30.9
   Plt
   120
   123
   150
   Cr
   0.9
   1.0
   1.0
   0.9
   TropT
   0.02
   Glucose
   140
   213
   518
   42
   Other labs: PT / PTT / INR:11.6/20.0/1.0, CK / CKMB /
   Troponin-T://0.02, ALT / AST:19/14, Alk Phos / T Bili:67/0.2,
   Differential-Neuts:82.0 %, Lymph:13.9 %, Mono:3.4 %, Eos:0.5 %,
   Albumin:3.0 g/dL, LDH:244 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.7
   mg/dL
   Microbiology: Cx all negative to date
   Assessment and Plan
   73 y/o F s/p OLT 3 yrs ago, PTLD, recently diagnosed IPF, who presents
   with LE edema, fever, tachycardia.  Overall is improved but unclear
   primary diagnosis.  Likely infection with superimposed AFib & diastolic
   dysfunction.
   1. Tachycardia:  Improved rate control, uptitrating metoprolol.
   - cont metoprolol 37.5 tid
   - cover with antibiotics, cx pending.  d/c vanc as hasn't grown any
   staph.
   2. Hypotension:  Mildly hypotensive to 80s after receiving metoprolol.
   Will monitor.
   3. Right Heart Failure:  Likely acute on chronic, due to underlying
   heart disease.
   - goal euvolemic to slightly negative
   - TTE unchanged
   - may benefit from PSG given body habitus and witnessed snoring.
   4. Idiopathic Pulmonary Fibrosis-  Doing well, back to home oxygen
   requirement.
   -Continue with outpatient medications: on prednisone & prophylactic
   bactrim.
   5. s/p OLT:  Cont FK 506.
   6. AFib:  Titrated up metoprolol to 37.5 mg tid.  CHADS2 score 3 so may
   benefit from anticoagulation but will d/w PCP.
   7. DM:  Hyperglycemic yesterday, ? if due to infection.  Now better
   controlled on NPH 30 [**Hospital1 **], insulin sliding scale.
   ICU Care
   Nutrition:
   Comments: diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2125-9-2**] 08:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNI (do not intubate)
   Disposition :Transfer to floor
   Total time spent: 45 min